US04859229
using 3-[4-chloro-2-fluoro-5-(2-hydroxyethoxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione and acetyl chloride with pyridine in diethyl ether there is obtained 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H) -pyrimidinyl]-4-fluorophenoxy}-ethyl acetate, m.p. 88°-90° C.;

reactant | 3-[4-chloro-2-fluoro-5-(2-hydroxyethoxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OCCO)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C14H11ClF4N2O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H) -pyrimidinyl]-4-fluorophenoxy}-ethyl acetate | C(C)(=O)OCCOC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C16H13ClF4N2O5
